US08283354B2
3-Fluoro-2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (250 mg, 0.74 mmol) was suspended in anhydrous DMF (5 mL) and cooled to 0° C. (internal temperature). Under an N2 atmosphere, (R)-2-hydroxy-4,4-dimethylpentanoic acid (118.4 mg, 0.81 mmol) was added followed by triethylamine (0.207 mL, 1.48 mmol). To this stirring solution was added HATU (337 mg, 0.888 mmol). After the complete addition of HATU, the mixture was allowed to warm to 10° C. After 45 min the reaction was complete, and it was quenched with an equal portion of ice water. A yellow precipitate formed which was collected by vacuum filtration, dissolved in CH2Cl2, and the CH2Cl2 solution was desiccated with Na2SO4, filtered, and concentrated to a viscous yellow-orange oil. The crude material was purified via silica gel chromatography using 70% CH2Cl2/hexanes (1:1) and 30% EtOAc to afford (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one as a yellow solid (171 mg, 50%). LC/MS: m/z 467.1 (M+H)+ at 2.63 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.02 (d, J=8.6 Hz, 1H), 7.69 (s, 1H), 7.43 (dd, J=8.6, 1.5 Hz, 1H), 7.37-7.32 (m, 1H), 6.80 (d, J=8.3 Hz, 1H), 6.76-6.71 (m, 1H), 4.87 (d, J=7.2 Hz, 1H), 4.47-4.43 (m, 1H), 4.01-3.75 (m, 8H), 2.52 (s, 3H), 1.55 (dd, J=14.3, 3.0 Hz, 1H), 1.40 (dd, J=14.3, 8.8 Hz, 1H), 0.96 (s, 9H)

reactant | 3-Fluoro-2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.74 mmol, 250 mg | FC=1C(=C(C=CC1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCNCC1)C | C19H19FN4O
reactant | (R)-2-hydroxy-4,4-dimethylpentanoic acid | 0.81 mmol, 118.4 mg | O[C@@H](C(=O)O)CC(C)(C)C | C7H14O3
reactant | triethylamine | 1.48 mmol, 0.207 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.888 mmol, 337 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one | 171 mg, 50% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O)C | C26H31FN4O3
